US08389511B2
tert-Butyl (3R)-3-[{[2-(hydroxymethyl)-2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate
tert-Butyl (3R)-3-(isopropyl{[2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-2-[(propynyl-oxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate (24.9 g) was dissolved in methanol (100 mL), and thereto was added potassium carbonate (553 mg), and the mixture was stirred at 0° C. for one hour. After the reaction was complete, a saturated aqueous ammonium chloride solution was added thereto, and methanol was removed by evaporation under reduced pressure. The residue was diluted with water, and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by column chromatography to give the title compound (4.92 g).

reactant | tert-Butyl (3R)-3-(isopropyl{[2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-2-[(propynyl-oxy)methyl]-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | 24.9 g | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(COC#CC)C)=O)CCNC#CC)C1)C(F)(F)F | C33H43F3N4O6
reactant | potassium carbonate | 553 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 100 mL | CO | CH4O
product | tert-Butyl (3R)-3-[{[2-(hydroxymethyl)-2-methyl-3-oxo-4-[2-(propynylamino)ethyl]-7-(trifluoro-methyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 4.92 g | OCC1(OC2=C(N(C1=O)CCNC#CC)C=C(C(=C2)C(F)(F)F)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)C | C30H41F3N4O6
